US07601843B2
N-[1-[2-[1-[2-(1-Oxo-2-isoindolinyl)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide hydrochloride
After dissolving N-[1-[2-[1-[2-(1-oxo-2-isoindolinyl)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide (167 mg, 0.30 mmol) in ethyl acetate:ethanol=1:1 (4 mL), a 4N hydrochloric acid/ethyl acetate solution (0.25 mL, 1.00 mmol) was added. The reaction mixture was stirred at room temperature for 5 minutes and then concentrated under reduced pressure. The obtained residue was dissolved in ethanol (10 mL) and the solution was concentrated under reduced pressure to about 0.5 mL, after which 2-propanol (10 mL) was added and the mixture was concentrated under reduced pressure to obtain the title compound as a light brown amorphous substance (124 mg, 0.21 mmol) (70% yield).

reactant | N-[1-[2-[1-[2-(1-oxo-2-isoindolinyl)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 0.30 mmol, 167 mg | O=C1N(CC2=CC=CC=C12)CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C | C35H43N3O3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid ethyl acetate | 1.00 mmol, 4N, 0.25 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1-[2-[1-[2-(1-Oxo-2-isoindolinyl)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide hydrochloride | 70% yield | Cl.O=C1N(CC2=CC=CC=C12)CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C | InChI=1S/C35H43N3O3.ClH/c1-27-11-13-29(14-12-27)38(34(40)32-10-7-25-41-32)30-15-21-36(22-16-30)23-19-35(17-5-2-6-18-35)20-24-37-26-28-8-3-4-9-31(28)33(37)39;/h3-4,7-14,25,30H,2,5-6,15-24,26H2,1H3;1H
